US04987150
1,3,6,8-Tetrahydroxyxanthone;
1,4,6-trihydroxyxanthone; 1,3,5-trihydroxyxanthone; 1,3,6-trihydroxyxanthone; 1,3,8-trihydroxyxanthone; 1,3-dihydroxyxanthone; and 1,6-dihydroxyxanthone.

reactant | 1,4,6-trihydroxyxanthone | OC1=CC=C(C=2OC3=CC(=CC=C3C(C12)=O)O)O | C13H8O5
reactant | 1,3,5-trihydroxyxanthone | OC1=CC(=CC=2OC3=C(C=CC=C3C(C12)=O)O)O | C13H8O5
reactant | 1,3,6-trihydroxyxanthone | OC1=CC(=CC=2OC3=CC(=CC=C3C(C12)=O)O)O | C13H8O5
reactant | 1,3,8-trihydroxyxanthone | OC1=CC(=CC=2OC3=CC=CC(=C3C(C12)=O)O)O | C13H8O5
reactant | 1,3-dihydroxyxanthone | OC1=CC(=CC=2OC3=CC=CC=C3C(C12)=O)O | C13H8O4
reactant | 1,6-dihydroxyxanthone | OC1=CC=CC=2OC3=CC(=CC=C3C(C12)=O)O | C13H8O4
product | 1,3,6,8-Tetrahydroxyxanthone | OC1=CC(=CC=2OC3=CC(=CC(=C3C(C12)=O)O)O)O | C13H8O6
